US04187303
4 g (18.4 mmol) of 3,4-dihydro-2-methyl-3-oxo-2H-thieno[3,4-e]-1,2-thiazine 1,1-dioxide are stirred at room temperature under nitrogen for 24 hours with 3.6 g (18.4 mmol) of p-bromophenylisocyanate and 1.86 g (18.4 mmol) of triethylamine in 40 ml of absolute dimethylsulfoxide. Thereafter, the mixture is poured into 150 ml of 2-N hydrochloric acid and 100 g of ice and stirred for 20 minutes. The separated precipitate is filtered off under suction and washed neutral with water. The precipitate is taken up in 500 ml of methylene chloride, the turbid solution is dried over sodium sulfate, stirred with 1 g of active carbon and filtered. The filtrate is extracted with four 250 ml portions of semi-saturated sodium carbonate solution, each of the aqueous phases being re-extracted with a small amount of methylene chloride. The combined aqueous phases are acidified to pH 1 with concentrated hydrochloric acid. The separated product is extracted with three 300 ml portions of methylene chloride. The combined organic phases are dried over sodium sulfate and evaporated. The residual oil is covered with 5 ml of ethanol, the product separating out after standing for several days. The crystals are filtered off under suction, digested with a small amount of ethanol and dried. There is obtained 3-hydroxy-2-methyl-4-(4-bromophenylcarbamoyl)-2H-thieno[3,4-e]-1,2-thiazine 1,1-dioxide of melting point 138°-140° C.

reactant | 3,4-dihydro-2-methyl-3-oxo-2H-thieno[3,4-e]-1,2-thiazine 1,1-dioxide | 18.4 mmol, 4 g | CN1S(C=2C(CC1=O)=CSC2)(=O)=O | C7H7NO3S2
reactant | p-bromophenylisocyanate | 18.4 mmol, 3.6 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | triethylamine | 18.4 mmol, 1.86 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 3-hydroxy-2-methyl-4-(4-bromophenylcarbamoyl)-2H-thieno[3,4-e]-1,2-thiazine 1,1-dioxide | OC=1N(S(C=2C(C1C(NC1=CC=C(C=C1)Br)=O)=CSC2)(=O)=O)C | C14H11BrN2O4S2
